US05763450
A solution of 34.4 g (200 mmol) of 4-bromoaniline in 300 ml of dichloromethane was cooled to 2° under argon and treated dropwise with a solution of 28.2 g (100 mmol) of trifluoromethanesulphonic anhydride at such a rate that the reaction temperature could be held at 4°. After completion of the addition the mixture was warmed to room temperature and was stirred at this temperature for one hour. Subsequently, the mixture was treated with 200 ml of 2N hydrochloric acid solution and the organic phase was separated. The latter was washed neutral with 100 ml of 2N hydrochloric acid solution and then twice with 200 ml of water each time. Drying over sodium sulphate and evaporation gave a solid crude product which was digested in pentane. There were obtained 18.69 g (61.5%) of N-(4-bromophenyl)-C,C,C-trifluoro-methanesulphonamide as a colourless powder of m.p. 52°-54°. A further 6.75 g (22%) of product could be obtained from the mother liquor.

reactant | 4-bromoaniline | 200 mmol, 34.4 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | trifluoromethanesulphonic anhydride | 100 mmol, 28.2 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | hydrochloric acid | 2N, 200 ml | Cl | ClH
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | pentane | CCCCC | C5H12
product | N-(4-bromophenyl)-C,C,C-trifluoro-methanesulphonamide | 18.69 g, 61.5% | BrC1=CC=C(C=C1)NS(=O)(=O)C(F)(F)F | C7H5BrF3NO2S
